US08383382B2
A solution of N,N-diisopropylethylamine (19.9 mL, 120 mmol) and methyl 3-mercaptopropanoate (7.21 60 mmol) in isopropyl acetate (i-PrOAc, 100 mL) was cooled to an internal temperature of 2° C. To this vigorously stirred solution, 2,2-dimethylbutanoyl chloride (8.1 g, 60 mmol) was added dropwise over 10 min. The resulting suspension was stirred at 25° C. for 2 h. The reaction was monitored by checking the disappearance of methyl 3-mercaptopropanoate using thin-layer chromatography (TLC) on silica plates. Spots were stained with iodine (eluent: 5% EtOAc/heptane; Rf of methyl 3-mercaptopropanoate: 0.20). The reaction was quenched by addition of saturated ammonium chloride (100 mL) followed by i-PrOAc (100 mL) and the resultant mixture stirred until all solid dissolved. The phases were separated and the organic phase was washed successively with 1% aqueous hydrochloric acid (100 mL) and then water (2×50 mL). The organic phase was then dried over sodium sulfate, filtered, and concentrated under reduced pressure (45° C. bath, 50 mm Hg) to obtain a crude mixture as a pale yellow liquid. The crude mixture is subjected to column chromatography over silica gel using a heptane to 2% EtOAc:heptane gradient. Fractions comprising the pure product were combined and concentrated to afford 10.5 g (80%) of methyl 3-(2,2-dimethylbutanoylthio)propionate (DMB-S-MMP).

reactant | N,N-diisopropylethylamine | 120 mmol, 19.9 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl 3-mercaptopropanoate | 60 mmol | SCCC(=O)OC | C4H8O2S
reactant | 2,2-dimethylbutanoyl chloride | 60 mmol, 8.1 g | CC(C(=O)Cl)(CC)C | C6H11ClO
reactant | iodine | II | I2
solvent | isopropyl acetate | 100 mL | C(C)(=O)OC(C)C | C5H10O2
solvent | heptane | CCCCCCC | C7H16
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 3-(2,2-dimethylbutanoylthio)propionate | 10.5 g, 80% | CC(C(=O)SCCC(=O)OC)(CC)C | C10H18O3S
